US07442797B2
The tetrahydrofuran (12 ml) solution of 2-methyl-6-phenylpyridine (1.0 g, 5.9 mmol) obtained by Reference Example 10 was cooled to −78° C., then lithium diisopropylamide tetrahydrofuran solution obtained as above was dropwise added thereto while 15 minutes. The reaction mixture was additionally stirred at −78° C. for 1 hour, then a tetrahydrofuran (10 ml) solution of 1,2-dibromoethane (510 μL, 5.9 mmol, 1 equivalent) was dropwise added thereto, the reaction temperature was allowed to warm to 0° C. while 40 minutes. Then the reaction mixture was poured into an aqueous saturated ammonium chloride solution, an organic layer was separated, furthermore an aqueous layer was extracted with toluene. The organic layer was combined, and the solvent was distilled off, and the residue was purified by silica gel column chromatography and recrystallization, thereby obtaining 646 mg of 1,2-bis(6-phenylpyridine-2-yl)ethane as white powder. Yield: 65.1%.

reactant | 1,2-dibromoethane | 5.9 mmol, 510 μL, 1 equivalent | BrCCBr | C2H4Br2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1,2-bis(6-phenylpyridine-2-yl)ethane | 646 mg, Yield: 65.1% | C1(=CC=CC=C1)C1=CC=CC(=N1)CCC1=NC(=CC=C1)C1=CC=CC=C1 | C24H20N2
